US08492401B2
Pyridine (1.1 eq) was added to a solution of methyl 5-amino-6-chloronicotinate (1 eq) and 2-nitrobenzoyl chloride (1.2 eq) in CH2Cl2. The mixture was stirred at room temperature for 10 h and concentrated in vacuo. H2O was added and the resultant solid was collected by filtration, rinsed with CH2Cl2 and dried to give methyl 6-chloro-5-(2-nitrobenzamido)nicotinate (73% yield).

reactant | Pyridine | 1.1 eq | N1=CC=CC=C1 | C5H5N
reactant | methyl 5-amino-6-chloronicotinate | 1 eq | NC=1C(=NC=C(C(=O)OC)C1)Cl | C7H7ClN2O2
reactant | 2-nitrobenzoyl chloride | 1.2 eq | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methyl 6-chloro-5-(2-nitrobenzamido)nicotinate | 73% yield | ClC1=NC=C(C(=O)OC)C=C1NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C14H10ClN3O5
